US06063782
7-Benzyloxy-2,3-dimethyl-1-vinylpyrrolo[2,3-d]pyridazine
The title compound was prepared as a white powder in 59.7% yield in a similar procedure to that described in Example 1 by using 7-chloro-2,3-dimethyl-1-vinylpyrrolo[2,3-d]pyridazine and benzyl alcohol.

reactant | 7-chloro-2,3-dimethyl-1-vinylpyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2C)C)C=C | C10H10ClN3
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 7-Benzyloxy-2,3-dimethyl-1-vinylpyrrolo[2,3-d]pyridazine | 59.7% yield | C(C1=CC=CC=C1)OC=1N=NC=C2C1N(C(=C2C)C)C=C | C17H17N3O
